US09169259B2
To a solution of methyl 3-(8-(6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (70 mg, 0.16 mmol) in dioxane (5 mL) and water (4 mL) was added NaOH (63 mg, 1.6 mmol), then the mixture was heated to 40° C. with stirring for 4 h. The solution was concentrated in vacuo. Water (10 mL) was added to the residue and was washed with dichloromethane (15 mL×3). The aqueous layer was adjusted to pH=4 by the addition of concentrated HCl. The solid formed was collected by filtration to give 3-(8-(6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (0.045 g, 67%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 9.88 (s, 1H), 8.92 (s, 1H), 8.54 (s, 1H), 8.31-8.10 (m, 3H), 7.80-7.72 (m, 2H), 7.47 (s, 1H), 6.76 (s, 1H), 6.11 (s, 1H), 3.71-3.54 (m, 4 h), 1.72 (s, 2H), 0.78 (s, 1H), 0.22 (s, 1H). LC-MS: [M+H]+, 413, tR=1.665 min, HPLC: 95.09% at 214 nm, 95% at 254 nm, tR=5.831 min.

reactant | methyl 3-(8-(6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.16 mmol, 70 mg | C12CN(CC2C1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C24H22N6O2
reactant | NaOH | 1.6 mmol, 63 mg | [OH-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
product | 3-(8-(6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.045 g, 67% | C12CN(CC2C1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H20N6O2
